US04423213
Vilsmeier reagent prepared from phosphorus oxychloride (7.1 ml) and N,N-dimethylformamide (6.0 ml) was suspended in dry tetrahydrofuran (25 ml). To this suspension was added 4-bromo-2-(2,2,2-trichloroethoxycarbonylmethoxyimino)-3-oxobutyric acid (25 g), and the mixture was stirred at 5° C. for an hour to prepare the activated acid solution. This solution was added at a time to a solution of benzhydryl 7-amino-3-vinyl-3-cephem-4-carboxylate hydrochloride (16.2 g) and trimethylsilylacetamide (40 g) in ethyl acetate (140 ml) at -30° C., and the mixture was stirred at -15° to -5° C. for an hour. The reaction mixture was extracted with ethyl acetate, and the extract was washed with a saturated aqueous sodium bicarbonate and a saturated aqueous sodium chloride, followed by drying over magnesium sulfate. Removal of the solvent gave benzhydryl 7-[4-bromo-2-(2,2,2-trichloroethoxycarbonylmethoxyimino)-3-oxobutyramido]-3-vinyl-3-cephem-4-carboxylate (26.0 g).

reactant | Vilsmeier reagent | C[N+](=CCl)C.[Cl-]
reactant | phosphorus oxychloride | 7.1 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | 4-bromo-2-(2,2,2-trichloroethoxycarbonylmethoxyimino)-3-oxobutyric acid | 25 g | BrCC(C(C(=O)O)=NOCC(=O)OCC(Cl)(Cl)Cl)=O | C8H7BrCl3NO6
reactant | benzhydryl 7-amino-3-vinyl-3-cephem-4-carboxylate hydrochloride | 16.2 g | Cl.NC1[C@@H]2N(C(=C(CS2)C=C)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O
reactant | trimethylsilylacetamide | 40 g | C[Si](C)(C)CC(=O)N | C5H13NOSi
solvent | tetrahydrofuran | 25 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | 140 ml | C(C)(=O)OCC | C4H8O2
solvent | N,N-dimethylformamide | 6.0 ml | CN(C=O)C | C3H7NO
product | benzhydryl 7-[4-bromo-2-(2,2,2-trichloroethoxycarbonylmethoxyimino)-3-oxobutyramido]-3-vinyl-3-cephem-4-carboxylate | 26.0 g | BrCC(C(C(=O)NC1[C@@H]2N(C(=C(CS2)C=C)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O)=NOCC(=O)OCC(Cl)(Cl)Cl)=O | C30H25BrCl3N3O8S
